US07718648B2
To a stirred solution of 6-chloronicotinonitrile (2.77 g, 0.02 mol) in methanol (150 mL), at 0° C., was added di-t-butyldicarbonate (8.73 g, 0.04 mol) and nickel (II) chloride hexahydrate (475 mg, 0.002 mol). Sodium borohydride (5.30 g, 0.14 mol) was then added in portions over 30 minutes. The resulting reaction mixture (containing a finely divided black precipitate) was allowed to warm to room temperature and left to stir for a further one hour. N-(2-aminoethyl)-1,2-ethanediamine (2.16 mL, 0.02 mol) was then added and the mixture was allowed to stir for 30 minutes. The reaction mixture was concentrated on a rotary evaporator. To the resulting purple residue were added ethyl acetate (200 mL) and a saturated sodium bicarbonate solution (200 mL). The mixture was transferred to a separatory funnel and the organic layer was extracted with additional saturated sodium bicarbonate (200 mL), dried over sodium sulfate, filtered and concentrated on a rotary evaporator. The resulting residue was dissolved in dichloromethane and purified by column chromatography on silica gel (elution gradient from dichloromethane to 15% ethyl acetate/dichloromethane) to yield tert-butyl[(6-chloropyridin-3-yl)methyl]carbamate as a white solid (3.30 g, 67% yield). The product structure was confirmed by NMR and MS.

reactant | 6-chloronicotinonitrile | 0.02 mol, 2.77 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | di-t-butyldicarbonate | 0.04 mol, 8.73 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Sodium borohydride | 0.14 mol, 5.30 g | [BH4-].[Na+]
reactant | N-(2-aminoethyl)-1,2-ethanediamine | 0.02 mol, 2.16 mL | NCCNCCN | C4H13N3
solvent | methanol | 150 mL | CO | CH4O
catalyst | nickel (II) chloride hexahydrate | 0.002 mol, 475 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | tert-butyl[(6-chloropyridin-3-yl)methyl]carbamate | 3.30 g, 67% yield | C(C)(C)(C)OC(NCC=1C=NC(=CC1)Cl)=O | C11H15ClN2O2
